US08119661B2
Step E. The preparation of ethyl 4-[4-[(3aS,7aS)-2-oxo-3a,4,5,6,7,7a-hexahydro-3H-benzoimidazol-1-yl]-1-piperidyl]-4-methyl-piperidine-1-carboxylate
A solution of ethyl 4-[4-[[(1S,2S)-2-aminocyclohexyl]amino]-1-piperidyl]-4-methyl-piperidine-1-carboxylate (87 mg, 0.24 mmol) in dichloromethane (5 mL) was added with triphosgene (0.1 mmol) at 0° C. followed by with diisopropylethyl amine (0.5 mmol) and stirred at room temperature for 12 h. Water (2 mL) was added followed by dichloromethane (20 mL), the phases were separated and the aqueous phase was extracted with dichloromethane (2×10 mL). The combined organic phases were washed with brine, dried over Na2SO4 and concentrated in vacuo to give the crude product, which was purified with preparative LC/MS (high pH) to give the title compound as white solid 24 mg (25%). 1H NMR (400 MHz, METHANOL-D4) δ ppm 0.96 (s, 3H), 1.22 (t, J=7.08 Hz, 3H), 1.31-1.49 (m, 6H), 1.55-1.63 (m, 1H), 1.66-1.87 (m, 7H), 1.91-1.99 (m, 2H), 2.08-2.22 (m, 2H), 2.24-2.31 (m, 1H), 2.89-3.10 (m, 4H), 3.33-3.43 (m, 2H), 3.45-3.53 (m, 2H), 3.54-3.63 (m, 1H), 4.08 (q, J=7.08 Hz, 2H). MS (M+1): 393.3.

reactant | ethyl 4-[4-[[(1S,2S)-2-aminocyclohexyl]amino]-1-piperidyl]-4-methyl-piperidine-1-carboxylate | 0.24 mmol, 87 mg | N[C@@H]1[C@H](CCCC1)NC1CCN(CC1)C1(CCN(CC1)C(=O)OCC)C | C20H38N4O2
reactant | triphosgene | 0.1 mmol | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | diisopropylethyl amine | 0.5 mmol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | 2 mL | O | H2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | ethyl 4-[4-[(3aS,7aS)-2-oxo-3a,4,5,6,7,7a-hexahydro-3H-benzoimidazol-1-yl]-1-piperidyl]-4-methyl-piperidine-1-carboxylate | 24 mg, 25% | O=C1N[C@@H]2[C@@H](N1C1CCN(CC1)C1(CCN(CC1)C(=O)OCC)C)CCCC2 | C21H36N4O3
